***************************************************************************
***************************************************************************
* Renesas RJK0330DPB_01
*
* Polarity N-Channel
* Ratings 30V/2.70E-03OHMS/45A
*
* Date Created Mon Apr 11 11:30:00 2011
* Revision 18  Wed Apr 10 14:57:04 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0330DPB-01 DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.256636
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699014
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.584034
RLS1 8 7 0.00019

RDS 7 4 11534734931.7913 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00172405818181818 TC=0.00352242417097575,-8.18022028527521e-07
RBD 9 4 0.00108426246925405 TC=0.00352242417097575,-8.18022028527521e-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5573763181.94993
CGS 2 6 3.8967e-09
RG 1 2 0.3429

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1838.2
+ -25	1838.2
+ -24	1838.2
+ -23	1838.2
+ -22	1838.2
+ -21	1838.2
+ -20	1838.2
+ -19	1838.2
+ -18	1838.2
+ -17	1838.2
+ -16	1838.2
+ -15	1838.2
+ -14	1838.2
+ -13	1838.2
+ -12	1838.2
+ -11	1838.2
+ -10	1838.2
+ -9	1838.2
+ -8	1838.2
+ -7	1838.2
+ -6	1838.2
+ -5	1838.25
+ -4	1617.66
+ -3	1397.07
+ -2	1176.48
+ -1	955.89
+ 0	735.3
+ 0.1	697.3
+ 0.2	665.0
+ 0.3	635.6
+ 0.4	607.4
+ 0.5	580.1
+ 0.6	553.7
+ 0.7	529.1
+ 0.8	506.7
+ 0.9	487.0
+ 1	469.9
+ 2	376.6
+ 3	332.7
+ 4	305.0
+ 5	285.1
+ 6	269.8
+ 7	257.6
+ 8	247.5
+ 9	239.0
+ 10	232.3
+ 11	226.4
+ 12	221.4
+ 13	217.3
+ 14	213.8
+ 15	210.9
+ 16	208.4
+ 17	206.3
+ 18	204.5
+ 19	202.9
+ 20	201.6
+ 21	200.5
+ 22	199.5
+ 23	198.6
+ 24	197.8
+ 25	197.2
+ 26	196.6
+ 27	196.1
+ 28	195.6
+ 29	195.2
+ 30	194.8



.MODEL MINT NMOS(Vto=2.59 Kp=3.7081e+02 Nfs=510000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=800)

.MODEL DBD D(Bv=34.2094 Ibv=0.01 Rs=1E-6 Is=3.6846243471615e-12
+ N=1 M=0.46 VJ=0.66 Fc=0.5 Cjo=2.0817e-09 Tt=4.59e-09)

.ENDS

***************************************************************************
