***************************************************************************
* Renesas RJK0452DPB
*
* Polarity N-Channel
* Ratings 40V/3.500000E-003OHMS/22.5A
*
* Date Created Thu Dec 08 21:57:36 2011
* Revision 18  Wed Apr 10 14:20:12 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0452DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 3650767573.88241 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00222 TC=0.00517017993480453,5.94555074978556E-06
RBD 9 4 0.00135797826816322 TC=0.00517017993480453,5.94555074978556E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 3728004771.84611
CGS 2 6 3.826628e-09
RG 1 2 0.364884

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1496.3
+ -25	1496.3
+ -24	1496.3
+ -23	1496.3
+ -22	1496.3
+ -21	1496.3
+ -20	1496.3
+ -19	1496.3
+ -18	1496.3
+ -17	1496.3
+ -16	1496.3
+ -15	1496.3
+ -14	1496.3
+ -13	1496.3
+ -12	1496.3
+ -11	1496.3
+ -10	1496.3
+ -9	1496.3
+ -8	1496.3
+ -7	1496.3
+ -6	1496.3
+ -5	1496.3
+ -4	1427.24
+ -3	1358.18
+ -2	1289.12
+ -1	1220.06
+ 0	1151
+ 0.1	1029
+ 0.2	927.8
+ 0.3	849.7
+ 0.4	789
+ 0.5	739.1
+ 0.6	695.9
+ 0.7	658.3
+ 0.8	625.5
+ 0.9	597.7
+ 1	574.2
+ 2	449.5
+ 3	390.4
+ 4	352.5
+ 5	325.1
+ 6	303.9
+ 7	286.9
+ 8	272.7
+ 9	260.6
+ 10	250.7
+ 11	241.5
+ 12	233.4
+ 13	226.1
+ 14	219.6
+ 15	213.6
+ 16	208.3
+ 17	203.4
+ 18	198.9
+ 19	194.8
+ 20	191
+ 22	184.5
+ 24	179.1
+ 26	174.7
+ 28	171.3
+ 30	168.5
+ 32	166.2
+ 34	164.4
+ 36	163
+ 38	161.8
+ 40	160.7



.MODEL MINT NMOS(Vto=2.077 Kp=4.824e+002 Nfs=440000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=3000)

.MODEL DBD D(Bv=49.3742 Ibv=1.000000E-002 Rs=1E-6 Is=6.96734117546067e-12
+ N=1 M=0.49 VJ=0.54 Fc=0.5 Cjo=1.663e-09 Tt=3.92e-09)

.ENDS

