***************************************************************************
* Renesas RJK0652DPB
*
* Polarity N-Channel
* Ratings 60V/7.000000E-003OHMS/35A
*
* Date Created Tue Dec 13 20:55:28 2011
* Revision 18  Wed Apr 10 14:20:13 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0652DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 8187348363.48552 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00472 TC=0.00665278398104008,2.44002630854025E-05
RBD 9 4 0.00144373341266486 TC=0.00665278398104008,2.44002630854025E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2774817971.94104
CGS 2 6 3.93082e-09
RG 1 2 0.361196

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1763
+ -25	1763
+ -24	1763
+ -23	1763
+ -22	1763
+ -21	1763
+ -20	1763
+ -19	1763
+ -18	1763
+ -17	1763
+ -16	1763
+ -15	1763
+ -14	1763
+ -13	1763
+ -12	1763
+ -11	1763
+ -10	1763
+ -9	1763
+ -8	1763
+ -7	1763
+ -6	1763
+ -5	1763
+ -4	1586.7
+ -3	1410.4
+ -2	1234.1
+ -1	1057.8
+ 0	881.5
+ 0.1	768.9
+ 0.2	686.4
+ 0.3	621.6
+ 0.4	565.8
+ 0.5	517
+ 0.6	476.4
+ 0.7	444.9
+ 0.8	420.6
+ 0.9	401.7
+ 1	386.4
+ 2	302.9
+ 3	262.8
+ 4	237
+ 5	218.4
+ 6	203.9
+ 7	192.3
+ 8	182.7
+ 9	174.5
+ 10	167.8
+ 11	161.6
+ 12	156.1
+ 13	151.2
+ 14	146.8
+ 15	142.8
+ 16	139.1
+ 17	135.8
+ 18	132.7
+ 19	129.8
+ 20	127.1
+ 22	122.3
+ 24	118
+ 26	114.3
+ 28	110.9
+ 30	107.8
+ 32	105.1
+ 34	102.6
+ 36	100.5
+ 38	98.61
+ 40	97.06
+ 42	95.78
+ 44	94.76
+ 46	93.94
+ 48	93.28
+ 50	92.76
+ 52	92.33
+ 54	91.98
+ 56	91.7
+ 58	91.46
+ 60	91.27



.MODEL MINT NMOS(Vto=2.142 Kp=2.637e+002 Nfs=420000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=3000)

.MODEL DBD D(Bv=71.3374 Ibv=1.000000E-002 Rs=1E-6 Is=4.55685954276927e-12
+ N=1 M=0.5 VJ=0.5 Fc=0.5 Cjo=1.4175e-09 Tt=2.8e-09)

.ENDS

