***************************************************************************
* Renesas RJK0851DPB
*
* Polarity N-Channel
* Ratings 80V/2.300000E-002OHMS/20A
*
* Date Created Sun Dec 18 18:48:51 2011
* Revision 18  Wed Apr 10 14:20:14 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0851DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 5981129536.31293 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0168918181818182 TC=0.00610699775953233,1.88176883475822E-05
RBD 9 4 0.0026177817159456 TC=0.00610699775953233,1.88176883475822E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5938524395.45822
CGS 2 6 1.952132e-09
RG 1 2 0.65558

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	887.76
+ -25	887.76
+ -24	887.76
+ -23	887.76
+ -22	887.76
+ -21	887.76
+ -20	887.76
+ -19	887.76
+ -18	887.76
+ -17	887.76
+ -16	887.76
+ -15	887.76
+ -14	887.76
+ -13	887.76
+ -12	887.76
+ -11	887.76
+ -10	887.76
+ -9	887.76
+ -8	887.76
+ -7	887.76
+ -6	887.76
+ -5	887.76
+ -4	784.188
+ -3	680.616
+ -2	577.044
+ -1	473.472
+ 0	369.9
+ 1	156.1
+ 2	124.4
+ 3	108.4
+ 4	97.95
+ 5	90.33
+ 6	84.41
+ 7	79.62
+ 8	75.63
+ 9	72.25
+ 10	69.46
+ 11	66.88
+ 12	64.6
+ 13	62.57
+ 14	60.74
+ 15	59.08
+ 16	57.55
+ 17	56.15
+ 18	54.85
+ 19	53.64
+ 20	52.53
+ 21	51.49
+ 22	50.52
+ 23	49.61
+ 24	48.75
+ 25	47.94
+ 30	44.48
+ 35	41.74
+ 40	39.5
+ 45	37.65
+ 50	36.22
+ 55	35.26
+ 60	34.69
+ 65	34.35
+ 70	34.15
+ 75	34.02
+ 80	33.94



.MODEL MINT NMOS(Vto=2.361 Kp=1.577e+002 Nfs=460000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=3000)

.MODEL DBD D(Bv=87.3738 Ibv=1.000000E-002 Rs=1E-6 Is=2.41424475739829e-12
+ N=1 M=0.5 VJ=0.5 Fc=0.5 Cjo=6.371e-10 Tt=3.8e-09)

.ENDS

