***************************************************************************
* Renesas RJK0852DPB
*
* Polarity N-Channel
* Ratings 80V/1.200000E-002OHMS/30A
*
* Date Created Sun Dec 18 21:31:52 2011
* Revision 18  Wed Apr 10 14:20:14 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK0852DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 3504805965.17975 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00827436363636364 TC=0.00655796905117657,2.33278344528245E-05
RBD 9 4 0.00176028298481387 TC=0.00655796905117657,2.33278344528245E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1045675087.83671
CGS 2 6 4.01014e-09
RG 1 2 0.34608

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1741.3
+ -25	1741.3
+ -24	1741.3
+ -23	1741.3
+ -22	1741.3
+ -21	1741.3
+ -20	1741.3
+ -19	1741.3
+ -18	1741.3
+ -17	1741.3
+ -16	1741.3
+ -15	1741.3
+ -14	1741.3
+ -13	1741.3
+ -12	1741.3
+ -11	1741.3
+ -10	1741.3
+ -9	1741.3
+ -8	1741.3
+ -7	1741.3
+ -6	1741.3
+ -5	1741.3
+ -4	1551.34
+ -3	1361.38
+ -2	1171.42
+ -1	981.46
+ 0	791.5
+ 1	331.1
+ 2	261.5
+ 3	227.3
+ 4	205.1
+ 5	189
+ 6	176.6
+ 7	166.6
+ 8	158.3
+ 9	151.3
+ 10	145.5
+ 11	140.2
+ 12	135.5
+ 13	131.3
+ 14	127.5
+ 15	124.1
+ 16	120.9
+ 17	118.1
+ 18	115.4
+ 19	113
+ 20	110.7
+ 21	108.6
+ 22	106.6
+ 23	104.7
+ 24	102.9
+ 25	101.3
+ 30	94.18
+ 35	88.55
+ 40	83.99
+ 45	80.3
+ 50	77.58
+ 55	75.87
+ 60	74.89
+ 65	74.32
+ 70	73.98
+ 75	73.77
+ 80	73.65



.MODEL MINT NMOS(Vto=2.3256 Kp=3.0e+002 Nfs=410000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ UO=600 Vmax=3000)

.MODEL DBD D(Bv=87.6592 Ibv=1.000000E-002 Rs=1E-6 Is=4.41756472685675e-12
+ N=1 M=0.52 VJ=0.5 Fc=0.5 Cjo=1.2745e-09 Tt=2.92e-09)

.ENDS

